US05817647
2-t-Butyldiphenylsilyloxymethyl-2-propene-1-ol
A solution of t-butyldiphenylsilylchloride (45 g, 165 mmol) in anhydrous dichloromethane (60 ml) is added dropwise to a stirred solution of 2-hydroxymethyl-2-propene-1-ol (12 g, 165 mmol) triethylamine (27.5 ml) and 4-dimethylaminopyridine (2 g) in anhydrous dichloromethane (300 ml) at 0° C. Then, the mixture is stirred at 20° C. overnight, washed with a saturated solution of ammonium chloride and brine. The title product is obtained by flash chromatography on silica gel (19.4 g, 40%).

reactant | t-butyldiphenylsilylchloride | 165 mmol, 45 g | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)Cl | C16H19ClSi
reactant | 2-hydroxymethyl-2-propene-1-ol | 165 mmol, 27.5 ml, 12 g | OCC(CO)=C | C4H8O2
solvent | dichloromethane | 60 ml | ClCCl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 2 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 300 ml | ClCCl | CH2Cl2
product | 2-t-Butyldiphenylsilyloxymethyl-2-propene-1-ol | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OCC(CO)=C | C20H26O2Si
